US06515134B1
Pivalic acid (5.3 g, 52 mmol), 8.8 g (104 mmol) of sodium hydrogen carbonate and 0.84 g (2.6 mmol) of tetrabutylammonium bromide were added to a solution of 5.0 g (26 mmol) of 3- (2-chloroacetyl) pyridine hydrochloride in 80 ml of THF at room temperature, and the mixture was refluxed for 2 hours. Water (100 ml) was added to the reaction mixture and the resulting mixture was extracted three times with 100 ml of ethyl acetate. The organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution and then dried over sodium sulfate. The solvent was distilled off under reduced pressure and the product was isolated and purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give 5.3 g (yield 92%) of the desired 2-oxo-2-pyridin-3-ylethyl 2,2-dimethylpropanoate.

reactant | Pivalic acid | 52 mmol, 5.3 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | sodium hydrogen carbonate | 104 mmol, 8.8 g | C(O)([O-])=O.[Na+]
reactant | 3- (2-chloroacetyl) pyridine hydrochloride | 26 mmol, 5.0 g | Cl.ClCC(=O)C=1C=NC=CC1
reactant | Water | 100 ml | O | H2O
catalyst | tetrabutylammonium bromide | 2.6 mmol, 0.84 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 2-oxo-2-pyridin-3-ylethyl 2,2-dimethylpropanoate | 5.3 g, yield 92% | CC(C(=O)OCC(C=1C=NC=CC1)=O)(C)C | C12H15NO3
